US06649759B2
To a solution of 5-phenyl-2H-pyrazol-3-ylamine (9.18 g, 57.6 mmol) and 3-oxo-butyric acid methyl ester (9.33 mL, 86.5 mmol) in acetic acid (70 ml) was refluxed for 28 hrs. The reaction mixture was then allowed to cool, filtered, and the precipitated solid washed with acetic acid and dried in vacuo to afford 5-methyl-2-phenyl-pyrazolo[1,5-a]pyrimidin-7-ol as a white solid (11.86 g; 85%) MS m/z @ 242 (m+1).

reactant | 5-phenyl-2H-pyrazol-3-ylamine | 57.6 mmol, 9.18 g | C1(=CC=CC=C1)C=1C=C(NN1)N | C9H9N3
reactant | 3-oxo-butyric acid methyl ester | 86.5 mmol, 9.33 mL | COC(CC(C)=O)=O | C5H8O3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-2-phenyl-pyrazolo[1,5-a]pyrimidin-7-ol | CC1=NC=2N(C(=C1)O)N=C(C2)C2=CC=CC=C2 | C13H11N3O
